US05994356
(38) 1-[4-(2-(4-Chlorophenyl)-1-methoxycarbonylethyloxy)phenyl]-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride
Prepared from 4-[2-(1-tert-butyloxycarbonylpiperidin-4-yl)ethyl]-1-[4-(2-(4-chlorophenyl)-1-methoxycarbonylethyloxy)phenyl]piperazine and ethereal hydrochloric acid.

reactant | 4-[2-(1-tert-butyloxycarbonylpiperidin-4-yl)ethyl]-1-[4-(2-(4-chlorophenyl)-1-methoxycarbonylethyloxy)phenyl]piperazine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1CCN(CC1)C1=CC=C(C=C1)OC(CC1=CC=C(C=C1)Cl)C(=O)OC | C32H44ClN3O5
reactant | hydrochloric acid | Cl | ClH
product | 1-[4-(2-(4-Chlorophenyl)-1-methoxycarbonylethyloxy)phenyl]-4-[2-(piperidin-4-yl)ethyl]piperazine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)CC(OC1=CC=C(C=C1)N1CCN(CC1)CCC1CCNCC1)C(=O)OC | InChI=1S/C27H36ClN3O3.2ClH/c1-33-27(32)26(20-22-2-4-23(28)5-3-22)34-25-8-6-24(7-9-25)31-18-16-30(17-19-31)15-12-21-10-13-29-14-11-21;;/h2-9,21,26,29H,10-20H2,1H3;2*1H
